US04497963
Agitated in a reaction vessel are 210 parts of 4,4'-diaminodicyclohexylmethane with 360 parts of O-octyl carbamate and 150 parts of n-octanol-(1) at a reflux temperature of 185° C.-205° C. for 2 hours while the ammonia is removed by means of distillation. At this point, an additional 650 parts of n-octanol are allowed to flow into the reaction mixture and the reaction is continued at reflux temperature for 10 hours. The reaction mixture, which has been cooled to 100° C., is filtered, and the product is allowed to crystallize by cooling the filtrate. By filtration, washing with octanol and drying, 468 parts of bis(4-octoxycarbonylaminocyclohexyl)methane, C31H58N2O4 (molecular weight 522) are obtained corresponding with 89.6 percent theory relative to 4,4'-bisaminodicyclohexylmethane. The melting point is 129° C.-130° C.

reactant | 4,4'-diaminodicyclohexylmethane | C1CC(CCC1CC2CCC(CC2)N)N | C13H26N2
reactant | O-octyl carbamate | C(N)(OCCCCCCCC)=O | C9H19NO2
reactant | ammonia | N | H3N
product | bis(4-octoxycarbonylaminocyclohexyl)methane | C(CCCCCCC)OC(=O)NC1CCC(CC1)CC1CCC(CC1)NC(=O)OCCCCCCCC | C31H58N2O4
